US06008237
To a solution of 4-phenoxy-2-propylphenol (PCT Application WO97/28115) in DMF was added potassium carbonate and allyl bromide. The reaction was stirred for 5 h at 50° C., and after cooling was neutralized with 1N HCl and extracted with ethyl acetate. The organic extract was washed with brine, dried over magnessium sulphate, filtered and concentrated to afford an oil which was chromatographed on silica gel (15% ethyl acetate:hexanes) to afford 2-propyl-4-phenoxyphenyl allyl ether.

reactant | 4-phenoxy-2-propylphenol | O(C1=CC=CC=C1)C1=CC(=C(C=C1)O)CCC | C15H16O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | C(C=C)Br | C3H5Br
reactant | HCl | 1N | Cl | ClH
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-propyl-4-phenoxyphenyl allyl ether | C(C=C)OC1=C(C=C(C=C1)OC1=CC=CC=C1)CCC | C18H20O2
